US07176198B2
N-[(3R)-1-azabicyclo[2.2.2]oct-3-yl]-4-iodo-1H-pyrazole-1-carboxamide Hydrochloride
Phenyl 4-iodo-1H-pyrazole-1-carboxylate (1.6 g, 5.2 mmol) and (R)-(+)-3-aminoquinuclidine dihydrochloride (1.0 g, 5.2 mmol) are suspended in 10 mL DMF. DIEA (2.7 mL, 15.5 mmol) is added dropwise. After 36 h, the solvent is removed and the residue is taken up in 1N NaOH and CHCl3. The aqueous layer is extracted with CHCl3, dried (MgSO4), filtered and concentrated. The residue is purified by chromatography (Biotage 40S, 90:9:1 CHCl3/MeOH/NH4OH) to provide 1.66 g (93%) of the product as a white solid. A portion of the material is converted into the hydrochloride salt and recrystallized from MeOH/EtOAc. HRMS (FAB) calcd for C11H15IN4O+H 347.0370, found 347.0357.

reactant | Phenyl 4-iodo-1H-pyrazole-1-carboxylate | 5.2 mmol, 1.6 g | IC=1C=NN(C1)C(=O)OC1=CC=CC=C1 | C10H7IN2O2
reactant | (R)-(+)-3-aminoquinuclidine dihydrochloride | 5.2 mmol, 1.0 g | Cl.Cl.N[C@H]1CN2CCC1CC2
reactant | DIEA | 15.5 mmol, 2.7 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | N-[(3R)-1-azabicyclo[2.2.2]oct-3-yl]-4-iodo-1H-pyrazole-1-carboxamide Hydrochloride | 1.66 g, 93% | Cl.N12C[C@@H](C(CC1)CC2)NC(=O)N2N=CC(=C2)I | InChI=1S/C11H15IN4O.ClH/c12-9-5-13-16(6-9)11(17)14-10-7-15-3-1-8(10)2-4-15;/h5-6,8,10H,1-4,7H2,(H,14,17);1H/t10-;/m0./s1
